Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough, diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ year old man with history of CLL (followed at 
___, history of ETOH use disorder, history of TKR, who 
is referred from ___ with several days of diarrhea.

He reports 10 days of cough, nausea, vomiting (now resolved), 
and recurrent diarrhea (watery, non blodoy). He denies any 
abdominal pain but admits to generalized achiness. He denies any 
known insect bites or any trauma or any focal numbness or 
weakness. Reports very poor PO inake and poor appetite over last 
week. Wife also noted he has been getting gradually more 
confused (cannot recall conversations from 1 hour ago) and more 
lethargic. He just saw his oncologist 2 days ago (where his WBC 
was 80k). Of note the patient is on fluid restriction at home 
for chronic hyponatremia.

He was initially taken to ___, where labs were remarkable for 
WBC 76, Na 121, Cr 1.2. Also with elevated LFTs AST 478, ALT 
330, Alk phos 183, Dbili 0.5. Lipase and lactate were wnl, 
troponinT < 0.01. Flu PCR was negative. CT head showed no acute 
intracranial process. CT abd negative except for a 4mm non 
obstructing renal stone. CT chest showed dense consolidations in 
the left upper lobe and left lower lobe. HE was given NS 1.5L 
and levofloxacin and CTX. Case discussed with PCP office and 
sent to ___.

In the ED, initial VS were: 100.3 90 130/81 20 94% RA 
ED physical exam was recorded as scattered rhonchi but benign 
abdomen, supple neck, nonfocal neurologic exam

ED labs showed Na improved to 125, stably elevated LFTs

When seen on the floor,
REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
CLL (followed at ___
ETOH use disorder
history of TKR
 
Social History:
___
Family History:
no family history of CLL
 
Physical Exam:
Vitals: 97.6  PO113 / 76  L ___
Gen: Lying in bed in no apparent distress, awake and alert, 
interactive
HEENT: AT, NC, PERRL, EOMI, MMM, hearing grossly intact
CV: S1, S2, RRR no M/R/G
Pulm: CTA b/l, no wheeze, rhonchi, or rales
GI: (+) BS, soft, NT, ND, no HSM 
MSK: No edema
Skin: No rashes or ulcerations evident
Neuro: A+O x4, speech fluent, face symmetric, moving all 
extremities
Psych: calm mood, appropriate affect

 
Pertinent Results:
___ 12:00AM   GLUCOSE-131* UREA N-12 CREAT-1.1 SODIUM-125* 
POTASSIUM-3.7 CHLORIDE-89* TOTAL CO2-22 ANION GAP-18
___ 12:00AM   estGFR-Using this
___ 12:00AM   ALT(SGPT)-318* AST(SGOT)-420* ALK PHOS-196* 
TOT BILI-0.8
___ 12:00AM   ALBUMIN-3.0*
___ 12:00AM   WBC-74.0* RBC-3.97* HGB-11.7* HCT-34.6* 
MCV-87 MCH-29.5 MCHC-33.8 RDW-14.1 RDWSD-44.3
___ 12:00AM   PLT COUNT-314

___ radiology:
CXR: . 2 focal areas of consolidation 1 in the left upper lobe 
adjacent to
the aortic arch and lingula segment left lower lobe. Both must 
be
followed until clearing to rule out underlying mass.
 
CT Chest: . 2 focal areas of consolidation 1 in the left upper 
lobe adjacent to the aortic arch and lingula segment left lower 
lobe. Both must be followed until clearing to rule out 
underlying mass.

CT abd: 1. No etiology for abnormal liver function tests. No 
dilated
intrahepatic ducts. No intrahepatic lesions seen. Portal vein 
patent.
2. Gallbladder not distended. No large stones. No 
pericholecystic
fluid. 3. Colonic diverticular disease without obvious 
diverticulitis. No
evidence of bowel wall thickening to suggest colitis 4. 
Nonspecific small amount of perinephric fluid. But no indication 
of acute pyelonephritis. 4 mm nonobstructing stone lower pole 
left kidney  4. 1.2  X  2 cm node under the left hemidiaphragm 
crus on image #28 of 101. And a 1.1 x 2 cm nonspecific noted in 
the right lower quadrant mesentery of the small bowel scan image 
#67 of 101. Otherwise no significant adenopathy tiny periportal 
nodes and a few left retroperitoneal nodes all less than 1 cm.
 
___ radiology:
___: RUQ U/S
IMPRESSION: 
1.  Mild splenomegaly.
2.  Subcentimeter hyperechoic liver lesion likely  a hemangioma.

___ 07:10AM BLOOD WBC-60.0* RBC-3.85* Hgb-11.2* Hct-34.1* 
MCV-89 MCH-29.1 MCHC-32.8 RDW-14.5 RDWSD-46.5* Plt ___
___ 07:10AM BLOOD Glucose-122* UreaN-12 Creat-0.9 Na-135 
K-4.2 Cl-98 HCO3-26 AnGap-15
___ 07:10AM BLOOD ALT-259* AST-238* AlkPhos-161* 
TotBili-0.4
___ 07:10AM BLOOD Mg-2.7*
___ 07:05PM BLOOD HBsAg-Negative HBsAb-Positive 
HBcAb-Negative IgM HBc-Negative IgM HAV-Negative
___ 07:05PM BLOOD TSH-3.2
___ 07:05PM BLOOD Free T4-1.1
 
Brief Hospital Course:
Patient is a ___ year old man with history of CLL (followed at 
___, history of ETOH use disorder, history of TKR, who 
is referred from ___ with several days of diarrhea and 
confusion and found to have Legionella pneumonia and 
hyponatremia. 

# Hyponatremia: Based on volume exam and urine lytes, most 
consistent with hypovolemic hyponatremia in setting of diarrheal 
illness and Legionella pneumonia. Resolved with IV hydration.

# Legionella Pneumonia: CURB65 score of 1, however given mild 
confusion and hypoxemia and significant left sided infiltrates, 
reasonable for admission. LFT abnormalities were suggestive of 
atypical infection,particularly legionella. Was saturating 
adequately on RA. Urine legionella was positive. Pt was treated 
with levofloxacin and discharged to complete a total of 7-days.

#? lung nodules
CT Chest showed 2 focal areas of consolidation 1 in the left 
upper lobe adjacent to the aortic arch and lingula segment left 
lower lobe. Both must be followed until clearing to rule out 
underlying mass. Should obtain repeat chest imaging in 6 weeks 
after resolution of PNA to rule out malignancy given smoking hx.

# Altered mental status/delirium: Resolved with IVF and 
correction of Na. Likely related to hyponatremia. History of 
slow to recover delirium.

# Diarrhea: Sequelae of Legionella pneumonia. C diff PCR 
negative. Resolved.

# LFT abnormalities: Pattern was more hepatocellular than 
obstructive. Possibly due to Legionella pneumonia. RUQ normal. 
LFTs trended down prior to discharge. Viral hepatitis panel c/w 
HBV immunity/vaccination.  GGT 96. 

# CLL: Counts stable from baseline (WBC 50-80) confirmed with 
his outpatient ___ clinic.
 
Medications on Admission:
none
 
Discharge Medications:
1.  Levofloxacin 750 mg PO Q24H 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth daily 
Disp #*6 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Legionella pneumonia 
hyponatremia 
diarrheal illness
altered mental status

 
Discharge Condition:
condition: good
mental status: intact at baseline
ambulatory status: independent

 
Discharge Instructions:
You were admitted to the hospital for confusion caused by a low 
sodium in your blood. You were diagnosed with Legionella 
pneumonia which was the cause of your diarrhea and your low 
sodium. You received IV fluids and antibiotics and you improved. 
Your sodium level is normal and your diarrhea resolved. You are 
no longer confused and safe to be discharged to home to complete 
your antibiotic course as an outpatient. 
 
Followup Instructions:
___